US09169254B2
2-Cyclohexyl-8-ethenesulfonyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (20 mg, 61.5 μmol), 8-bromoquinoline (19 mg, 91.3 μmol), POPd1 (Combiphos, 2.9 mg, 3.1 μmol) and sodium acetate (7.6 mg, 92.6 μmol) in dimethylacetamide (0.6 ml) were mixed in a sealed vessel in a nitrogen atmosphere. This mixture was irradiated in a microwave apparatus (190° C., 40 min). The reaction mixture was cooled, and then quenched with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 2-cyclohexyl-8-((E)-2-quinolin-8-yl-ethenesulfonyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (15.3 mg, 16%).

reactant | 2-Cyclohexyl-8-ethenesulfonyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 61.5 μmol, 20 mg | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)C=C | C15H23N3O3S
reactant | 8-bromoquinoline | 91.3 μmol, 19 mg | BrC=1C=CC=C2C=CC=NC12 | C9H6BrN
reactant | sodium acetate | 92.6 μmol, 7.6 mg | C(C)(=O)[O-].[Na+]
solvent | dimethylacetamide | 0.6 ml | CC(=O)N(C)C | C4H9NO
product | 2-cyclohexyl-8-((E)-2-quinolin-8-yl-ethenesulfonyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 15.3 mg, 16% | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)\C=C\C=2C=CC=C1C=CC=NC21 | C24H28N4O3S
